US06107329
(2RS)-[(5-Chloro-1H-indole-2-carbonyl)-amino]-2-methyl-3-phenyl-propionic acid methyl ester
Racemic 2-amino-2-methyl-3-phenyl-propionic acid methyl ester (200 mg, 0.87 mmol) and 5-chloro-1H-indole-2-carboxylic acid (170 mg, 0.87 mmol) were coupled according to Procedure A (2:1 dichloromethane/dimethylformamide solvent) and the product purified by chromatography on silica gel eluted with 10% ethyl acetate in hexanes. Yield 286 mg, 89%; HPLC (60/40) 9.63 minutes (85%); TSPMS 371/373 (MH+, 100%);

reactant | Racemic 2-amino-2-methyl-3-phenyl-propionic acid methyl ester | 0.87 mmol, 200 mg | COC(C(CC1=CC=CC=C1)(C)N)=O | C11H15NO2
reactant | 5-chloro-1H-indole-2-carboxylic acid | 0.87 mmol, 170 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
solvent | dichloromethane dimethylformamide | ClCCl.CN(C=O)C
product | (2RS)-[(5-Chloro-1H-indole-2-carbonyl)-amino]-2-methyl-3-phenyl-propionic acid methyl ester | COC(C(CC1=CC=CC=C1)(C)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C20H19ClN2O3
